US06165481
A tubular reactor of 2.0 cm in inner diameter and 10 cm in length was packed with 20 g of carrier-supported nickel catalyst. Hydrogenation was carried out by feeding into the reactor the 50 wt % squalene solution in isooctane and hydrogen gas to obtain a squalane solution in isooctane. Samples were taken out for 30 hours after the temperature was stabilized at 210° C.

reactant | squalene | CC(C)=CCC\C(\C)=C\CC\C(\C)=C\CC\C=C(/C)\CC\C=C(/C)\CCC=C(C)C | C30H50
catalyst | nickel | 20 g | [Ni] | Ni
solvent | isooctane | C(C)(C)CC(C)(C)C | C8H18
solvent | hydrogen | [H][H] | H2
product | squalane | CC(C)CCCC(C)CCCC(C)CCCCC(C)CCCC(C)CCCC(C)C | C30H62
